US06410538B2
Step 1: Synthesis of 1-t-butoxycarbonyl-(2R)-2-(p-tolylmethanesulfonyloxymethyl)pyrrolidine
1 g of D-prolinol was dissolved in 24 ml of dioxane. 2.4 g (10.5 mmol) of di-t-butyl dicarbonate and 5.3 ml of 2 M aqueous sodium hydroxide solution were added to the obtained solution under cooling with ice. They were stirred for 15 minutes and then at room temperature for additional 2 hours. The solvent was evaporated, and the residue was treated with ethyl acetate as the extraction solvent in an ordinary manner to obtain the crude product. The crude product was dissolved in 15 ml of dichloromethane. 2.23 g (10.8 mmol) of tosyl chloride and 1.5 ml (10.5 mmol) of triethylamine were added to the obtained solution, and they were stirred at room temperature overnight. After the treatment in an ordinary manner, the obtained crude product was purified by the silica gel column chromatography to obtain the title compound.

reactant | D-prolinol | 1 g | N1[C@@H](CO)CCC1 | C5H11NO
reactant | di-t-butyl dicarbonate | 10.5 mmol, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2 M, 5.3 ml | [OH-].[Na+]
reactant | tosyl chloride | 10.8 mmol, 2.23 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | triethylamine | 10.5 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-t-butoxycarbonyl-(2R)-2-(p-tolylmethanesulfonyloxymethyl)pyrrolidine | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COS(=O)(=O)CC1=CC=C(C=C1)C | C18H27NO5S
